US08471005B2
To a RB flask under argon were introduced 7-Bromo-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (300 mg, 1 mmol), 1H-Pyrazole (88.5 mg, 1.30 mmol), Cesium carbonate (801 mg, 2.46 mmol), Copper(I) iodide (50 mg, 0.3 mmol) and DMF (5 mL). The mixture was degassed for few minutes and heated at 110° C. overnight under argon. Solvent was removed and the mixture was taken in EtOAc and was passed through a pad of celite. Solvent evaporation gave the crude product which was purified by flash chromatography (ISCO, hexane :EtOAc 3:1). 2-Methylsulfanyl-7-pyrazol-1-yl-pyrrolo[2,1-f][1,2,4]triazine was isolated as a yellow syrup (23, 8%). LCMS (E/I+) 232 (M+H). 2-Methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenylamine (47.1 mg, 0.162 mmol), 2-Methanesulfinyl-7-pyrazol-1-yl-pyrrolo[2,1-f][1,2,4]triazine (20 mg, 0.08 mmol), N,N-Diisopropylethylamine (30 uL, 0.2 mmol) and 1-Methoxy-2-propanol (200 uL,) were combined in a microwave vial. The reaction was microwaved at 200° C. for 2.5 hours, taken up in DMSO, purified by Gilson RP-HPLC. The product, [2-Methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenyl]-(7-pyrazol-1-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine was isolated as a tan solid (8 mg, 21%). LCMS (E/I+) 475 (M+H). NMR 1H (DMSO-d6)-9.75 (br s, 1H), 8.94 (s, 1H), 8.58 (d, 1H, J=2.09 Hz), 7.94 (s, 1H), 7.83 (s, 1H), 7.67 (d, 1H, J=8.72 Hz), 6.94 (s, 2H), 6.70 (s, 1H), 6.60 (s, 1H), 6.52 (d, 1H, J=8.74 Hz), 4.04-3.13 (series of m, s along with the water peak, 14H), 2.71 (m, 2H), 2.15 (d, 2H, J=11.30 Hz), 1.72 (m, 2H).

reactant | 2-Methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenylamine | 0.162 mmol, 47.1 mg | COC1=C(C=CC(=C1)N1CCC(CC1)N1CCOCC1)N | C16H25N3O2
reactant | 2-Methanesulfinyl-7-pyrazol-1-yl-pyrrolo[2,1-f][1,2,4]triazine | 0.08 mmol, 20 mg | CS(=O)C1=NN2C(C=N1)=CC=C2N2N=CC=C2 | C10H9N5OS
reactant | N,N-Diisopropylethylamine | 0.2 mmol, 30 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 200 uL | COCC(C)O | C4H10O2
solvent | DMSO | CS(=O)C | C2H6OS
product | [2-Methoxy-4-(4-morpholin-4-yl-piperidin-1-yl)-phenyl]-(7-pyrazol-1-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | COC1=C(C=CC(=C1)N1CCC(CC1)N1CCOCC1)NC1=NN2C(C=N1)=CC=C2N2N=CC=C2 | C25H30N8O2
